* C:\Users\arnol\OneDrive\Documents\GitHub\Digital-Design\Seminario de solución de circuitos digitales\AND\AND_2IN_2MA.asc
XX1 A B N003 N001 nand2ma_2in_simb
XX2 N001 N003 N002 inversor2ma
* block symbol definitions
.subckt nand2ma_2in_simb A B VDD X
M1 N001 A 0 0 CMOSN l=0.6u w=7.5u
M2 VDD B X VDD CMOSP l=.6u w=22.2u
M3 X B N001 0 CMOSN l=0.6u w=7.5u
M4 VDD A X VDD CMOSP l=.6u w=22.2u
.ends nand2ma_2in_simb

.subckt inversor2ma A VDD X
M6 X A 0 0 CMOSN l=0.6u w=7.5u
M5 VDD A X VDD CMOSP l=.6u w=26.7u
.ends inversor2ma

.model NMOS NMOS
.model PMOS PMOS
.end
