* C:\Users\arnol\OneDrive\Documents\GitHub\Digital-Design\Seminario de solución de circuitos digitales\AND\AND_2IN_3MA.asc
XX1 A B N003 N001 nand3ma_2in_simb
XX2 N001 N003 N002 inversor3ma

* block symbol definitions
.subckt nand3ma_2in_simb A B VDD X
M1 N001 A 0 0 CMOSN l=0.6u w=10.8u
M2 VDD B X VDD CMOSP l=.6u w=32.7u
M3 X B N001 0 CMOSN l=0.6u w=10.8u
M4 VDD A X VDD CMOSP l=.6u w=32.7u
.ends nand3ma_2in_simb

.subckt inversor3ma A VDD X
M6 X A 0 0 CMOSN l=0.6u w=10.8u
M5 VDD A X VDD CMOSP l=.6u w=39.6u
.ends inversor3ma

.model NMOS NMOS
.model PMOS PMOS
.end
