* C:\Users\arnol\OneDrive\Escritorio\Inversor\Inversor.asc
M1 x A 0 0 CMOSN l=0.6u w=7.5u
M2 VDD A x VDD CMOSP l=.6u w=26.7u
*C1 x 0 10p
.model NMOS NMOS
.model PMOS PMOS
.end
