* C:\Users\arnol\OneDrive\Documents\GitHub\Digital-Design\Seminario de solución de circuitos digitales\NAND\NAND\NAND\NAND 3mA.asc
M1 N001 A 0 0 CMOSN l=0.6u w=10.8u
M2 VDD B x VDD CMOSP l=.6u w=32.7u
M3 x B N001 0 CMOSN l=0.6u w=10.8u
M4 VDD A x VDD CMOSP l=.6u w=32.7u
.model NMOS NMOS
.model PMOS PMOS
.end
