* C:\Users\arnol\OneDrive\Documents\GitHub\Digital-Design\Seminario de solución de circuitos digitales\NAND3\NAND3\NAND3 2mA.asc
M1 N001 A N002 0 CMOSN l=0.6u w=7.5u
M2 VDD B x VDD CMOSP l=.6u w=18.3u
M3 x B N001 0 CMOSN l=0.6u w=7.5u
M4 VDD A x VDD CMOSP l=.6u w=18.3u
M5 VDD C x VDD CMOSP l=.6u w=18.3u
M6 N002 C 0 0 CMOSN l=0.6u w=7.5u
.model NMOS NMOS
.model PMOS PMOS
.end
