* C:\Daniel\UDG\7mo\Seminario de solución de circuitos digitales\NAND3\NAND3\NAND3\3inputs_NAND_3mA.asc
M4 VDD C X VDD CMOSP l=.6u w=11.7u
M6 X A N001 0 CMOSN l=0.6u w=4.2u
M1 VDD B X VDD CMOSP l=.6u w=11.7u
M2 VDD A X VDD CMOSP l=.6u w=11.7u
M3 N001 B N002 0 CMOSN l=0.6u w=4.2u
M5 N002 C 0 0 CMOSN l=0.6u w=4.2u
.model NMOS NMOS
.model PMOS PMOS
.end
