* C:\Daniel\UDG\7mo\Seminario de solución de circuitos digitales\NAND3\NAND3\NOR\3inputs_NOR_1mA.asc
M1 X B 0 0 CMOSN l=0.6u w=4.2u
M2 VDD A N001 VDD CMOSP l=.6u w=18.9u
M3 X A 0 0 CMOSN l=0.6u w=4.2u
M4 N002 C X N002 CMOSP l=.6u w=18.9u
M5 N001 B N002 N001 CMOSP l=.6u w=18.9u
M6 X C 0 0 CMOSN l=0.6u w=4.2u
.end
