* C:\Daniel\UDG\7mo\Seminario de solución de circuitos digitales\NAND3\NAND3\NOR\3inputs_NOR_2mA_Correcion.asc
M1 X C 0 0 CMOSN l=0.6u w=7.5u
M2 VDD A N001 VDD CMOSP l=.6u w=37.8u
M3 X B 0 0 CMOSN l=0.6u w=7.5u
M4 N002 C X N002 CMOSP l=.6u w=37.8u
M5 N001 B N002 N001 CMOSP l=.6u w=37.8u
M6 X A 0 0 CMOSN l=0.6u w=7.5u
.end
