* C:\Daniel\UDG\7mo\Seminario de solución de circuitos digitales\NAND3\NAND3\NOR\NOR_2pins_3mA_Correcion.asc
M1 X B 0 0 CMOSN l=0.6u w=10.8u
M2 VDD A N001 VDD CMOSP l=.6u w=39.9u
M3 X A 0 0 CMOSN l=0.6u w=10.8u
M5 N001 B X N001 CMOSP l=.6u w=39.9u
.end
