* C:\Daniel\UDG\7mo\Seminario de solución de circuitos digitales\NAND3\NAND3\XNOR\Xnor_2mA.asc
XX1 N002 N003 0 VDD X instancia_nor_2ma
XX2 A N001 0 VDD N002 instancia_nor_2ma
XX3 N001 B 0 VDD N003 instancia_nor_2ma
XX4 A B 0 VDD N001 instancia_nor_2ma

* block symbol definitions
.subckt instancia_nor_2ma A B tierra v_dd X
M1 X B tierra tierra CMOSN l=0.6u w=7.5u
M2 v_dd A N001 v_dd CMOSP l=.6u w=26.1u
M3 X A tierra tierra CMOSN l=0.6u w=7.5u
M5 N001 B X N001 CMOSP l=.6u w=26.1u
.ends instancia_nor_2ma

.end
