* C:\Daniel\UDG\7mo\Seminario de solución de circuitos digitales\NAND3\NAND3\XNOR\Xnor_3mA.asc
XX1 N002 N003 0 VDD N004 instancia_nor_3ma
XX2 A N001 0 VDD N002 instancia_nor_3ma
XX3 N001 B 0 VDD N003 instancia_nor_3ma
XX4 A B 0 VDD N001 instancia_nor_3ma

* block symbol definitions
.subckt instancia_nor_3ma A B tierra VDD X
M1 X B tierra tierra CMOSN l=0.6u w=10.8u
M2 VDD A N001 VDD CMOSP l=.6u w=39.9u
M3 X A tierra tierra CMOSN l=0.6u w=10.8u
M5 N001 B X N001 CMOSP l=.6u w=39.9u
.ends instancia_nor_3ma


.end
