* C:\Users\arnol\OneDrive\Documents\GitHub\Digital-Design\Seminario de solución de circuitos digitales\XOR\XOR_2IN_2MA.asc
XX1 A B VDD N001 nand2ma_2in_simb
XX2 A N001 VDD N002 nand2ma_2in_simb
XX3 N001 B VDD N003 nand2ma_2in_simb
XX4 N002 N003 VDD N004 nand2ma_2in_simb

* block symbol definitions
.subckt nand2ma_2in_simb A B VDD X
M1 N001 A 0 0 CMOSN l=0.6u w=7.5u
M2 VDD B X VDD CMOSP l=.6u w=22.2u
M3 X B N001 0 CMOSN l=0.6u w=7.5u
M4 VDD A X VDD CMOSP l=.6u w=22.2u
.ends nand2ma_2in_simb

.model NMOS NMOS
.model PMOS PMOS
.end
